US07354942B2
To a solution of: 3-(methoxycarbonyl)-5-[(methylsulfonyl)(propyl)amino]benzoic acid (12.0 g, 38.1 mmol, prepared from dimethyl 5-aminoisophthalate and propyl iodide using a similar procedure as described for the preparation of intermediate A) in THF (250 mL) cooled to 0° C. was added BH3-THF (190.3 mL, 190.3 mmol, 1 M in THF). After 10 min, the reaction mixture was allowed to warm to rt and stirred for 15 h. The reaction mixture was cooled back down to 0° C. and carefully quenched with MeOH. The mixture was concentrated to half its original volume and diluted with EtOAc and water. Following dilution, the organic layer was extracted, washed with sat. aq. NaHCO3 and brine, dried over sodium sulfate and concentrated in vacuo to provide methyl 3-(hydroxymethyl)-5-[(methylsulfonyl)(propyl)amino]benzoate as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.02 (s, 1H), 7.89 (s, 1H), 7.60 (s, 1H), 4.79 (d, J=5.7 Hz, 2H), 3.94 (s, 3H), 3.67 (t, J=7.2 Hz, 2H), 2.90 (s, 3H), 1.87 (br t, J=5.7 Hz, 1H), 1.55-1.45 (m, 2H), 0.92 (t, J=7.4 Hz, 3H).

reactant | 3-(methoxycarbonyl)-5-[(methylsulfonyl)(propyl)amino]benzoic acid | COC(=O)C=1C=C(C(=O)O)C=C(C1)N(CCC)S(=O)(=O)C | C13H17NO6S
reactant | dimethyl 5-aminoisophthalate | NC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H11NO4
reactant | propyl iodide | C(CC)I | C3H7I
reactant | BH3-THF | 190.3 mmol, 1 M, 190.3 mL | B.C1CCOC1
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | methyl 3-(hydroxymethyl)-5-[(methylsulfonyl)(propyl)amino]benzoate | OCC=1C=C(C(=O)OC)C=C(C1)N(CCC)S(=O)(=O)C | C13H19NO5S
